US08207164B2
a) 3-Chloro-5-difluoromethoxy-pyridine-2-carbonitrile
To a solution of 3-chloro-5-hydroxy-pyridine-2-carbonitrile (314 mg, 2.03 mmol) in DMF (10 ml) was added K2CO3 (841 mg, 6.09 mmol) and sodium chlorodifluoroacetate (1.29 g, 8.11 mmol) and the reaction mixture was heated at 100° C. for 10 min. The reaction mixture was diluted with H2O and extracted with TBME. Combined extracts were washed with brine, dried over MgSO4, filtered and concentrated. The title compound was obtained as a yellow oil after chromatography on silica gel (hexane-EtOAc 20:1 to 1:1) to provide the title compound as a light yellow oil: TLC (hexane-EtOAc 2:1): Rf=0.54;

reactant | 3-chloro-5-hydroxy-pyridine-2-carbonitrile | 2.03 mmol, 314 mg | ClC=1C(=NC=C(C1)O)C#N | C6H3ClN2O
reactant | K2CO3 | 6.09 mmol, 841 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium chlorodifluoroacetate | 8.11 mmol, 1.29 g | ClC(C(=O)[O-])(F)F.[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 3-Chloro-5-difluoromethoxy-pyridine-2-carbonitrile | ClC=1C(=NC=C(C1)OC(F)F)C#N | C7H3ClF2N2O
